US04668274
Preparation of 2,3-dihydro-2,2-dimethyl-7-(2'-chloro-ethoxy)-benzofuran
To 100 ml. ethylacetate 8.23 g. (0.05 mole) 2,3-dihydro-2,2-dimethyl-7-hydroxy-benzofuran, 14.3 g. (0.1 mole) 1-bromo-2-chloro-ethane, 6.9 g. (0.05 mole) anhydrous sodium carbonate and 8.3 (0.05 mole) potassium iodide are added. The reaction mixture is heated for 30 hours and the reaction is monitored by gas chromatographic analysis.

reactant | 2,3-dihydro-2,2-dimethyl-7-hydroxy-benzofuran | 0.05 mole | CC1(OC2=C(C1)C=CC=C2O)C | C10H12O2
reactant | 1-bromo-2-chloro-ethane | 0.1 mole | BrCCCl | C2H4BrCl
reactant | sodium carbonate | 0.05 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | ethylacetate | 8.23 g | C(C)OC(C)=O | C4H8O2
product | 2,3-dihydro-2,2-dimethyl-7-(2'-chloro-ethoxy)-benzofuran | CC1(OC2=C(C1)C=CC=C2OCCCl)C | C12H15ClO2
